US05099057
Into a 3-liter, 3-necked, round-bottom flask are charged 121 g of 3-nitro-4-hydroxyphenyl sulfone bis-methylcarbonate, 200 mL of methanol, 250 mL of water and 200 g of 50 percent aqueous sodium hydroxide. The reaction is heated to 55° C. for a period of 3 hours. Upon completion, the reaction is then cooled to 0° C. and acidified with concentrated hydrochloric acid. The resultant yellow solid is isolated by filtration, washed with water, and air dried to give 82 g of essentially pure 4-hydroxy-3-nitrophenyl sulfone (90 percent yield).

reactant | 3-nitro-4-hydroxyphenyl sulfone bis-methylcarbonate | 121 g | COC(OC)=O.[N+](=O)([O-])C=1C=C(C=CC1O)S(=O)(=O)C1=CC(=C(C=C1)O)[N+](=O)[O-]
reactant | methanol | 200 mL | CO | CH4O
reactant | sodium hydroxide | 200 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 mL | O | H2O
product | 4-hydroxy-3-nitrophenyl sulfone | 90 percent yield | OC1=C(C=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C12H8N2O8S
